US06583126B2
Step 3 (E)-2-[4-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl]-1,5-diphenyl-4-penten-1-one
To a solution of 2-[4-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl]-1-phenyl 1-ethanone (0.2 g, 0.72 mmole) in DMF (3 mL) was added NaH (0.022 g, 0.7 mmole) at 0° C. The reaction was stirred for 15 min. Then a solution of cinnamyl bromide (0.16 g, 0.84 mmol) in 1 mL DMF was added. The reaction was warmed to room temperature, and was then quenched with saturated NH4Cl solution and extracted with ethyl acetate. The organic phase was then dried (Na2SO4), filtered, and evaporated to give the title compound.

reactant | 2-[4-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl]-1-phenyl 1-ethanone | 0.72 mmole, 0.2 g | CC1=NOC(=N1)C1=CC=C(C=C1)CC(=O)C1=CC=CC=C1 | C17H14N2O2
reactant | NaH | 0.7 mmole, 0.022 g | [H-].[Na+]
reactant | cinnamyl bromide | 0.84 mmol, 0.16 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (E)-2-[4-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl]-1,5-diphenyl-4-penten-1-one | CC1=NOC(=N1)C1=CC=C(C=C1)C(C(=O)C1=CC=CC=C1)C\C=C\C1=CC=CC=C1 | C26H22N2O2
